US04144047
Preparation of Dimethyl 3-(p-Nitrophenyl)-4,5-Isothiazoledicarboxylate.
Dimethyl acetylenedicarboxylate (85.26 g, 0.6 mol) and 5-(p-nitrophenyl)-1,3,4-oxathiazol-2-one (33.63 g, 0.15 mol) were heated as given above for 15 hours. Crystallization of the brown solid from methanol (2X) gave little improvement in purity. The brown solid as decolorized in ethyl acetate solution and recrystallized (3X) to give 12.2 g (0.0378 mol, 25.2%) of dark gold solid, m.p. 142°-143°.

reactant | Dimethyl acetylenedicarboxylate | 0.6 mol, 85.26 g | C(#CC(=O)OC)C(=O)OC | C6H6O4
reactant | 5-(p-nitrophenyl)-1,3,4-oxathiazol-2-one | 0.15 mol, 33.63 g | [N+](=O)([O-])C1=CC=C(C=C1)C1=NSC(O1)=O | C8H4N2O4S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Dimethyl 3-(p-Nitrophenyl)-4,5-Isothiazoledicarboxylate | 0.0378 mol, 12.2 g, 25.2% | [N+](=O)([O-])C1=CC=C(C=C1)C1=NSC(=C1C(=O)OC)C(=O)OC | C13H10N2O6S
